US07973181B2
Stage 3: (S)-2-tert-Butoxycarbonylamino-4-(tert-butyl-dimethyl-silanyloxy)-butyric acid cyclopentyl ester
To a solution of (S)-2-tert-Butoxycarbonylamino-4-(tert-butyl-dimethyl-silanyloxy)-butyric acid (2.53 g, 7.6 mmol) in DCM (50 ml) at 0° C. was added cyclopentanol (1.39 ml, 15.3 ml), EDC (1.61 g, 8.4 mmol) and DMAP (0.093 g, 0.76 mmol). The reaction mixture was stirred for 16 hours at room temperature before evaporation under reduced pressure. The crude residue was dissolved in ethyl acetate (100 ml) and washed with 1M HCl, 1M Na2CO3 and brine. The organic layer was then dried over magnesium sulphate and evaporated under reduced pressure. The product was purified by column chromatography using ethyl acetate/heptane (1:4) to give 2.24 g, 73% yield of title compound. LCMS purity 100%, m/z 402.5 [M++H], 1H NMR (300 MHz, CDCl3), δ: 5.20 (1H, d, J=6.3 Hz), 5.15 (1H, m), 4.20 (1H, m), 3.6 (2H, m), 2.00 (1H, m), 1.95-1.55 (9H, bm), 1.40 (9H,s), 0.85 (9H,s), 0.10 (6H,s).

reactant | (S)-2-tert-Butoxycarbonylamino-4-(tert-butyl-dimethyl-silanyloxy)-butyric acid | 7.6 mmol, 2.53 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCO[Si](C)(C)C(C)(C)C | C15H31NO5Si
reactant | cyclopentanol | 1.39 ml | C1(CCCC1)O | C5H10O
reactant | EDC | 8.4 mmol, 1.61 g
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.76 mmol, 0.093 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (S)-2-tert-Butoxycarbonylamino-4-(tert-butyl-dimethyl-silanyloxy)-butyric acid cyclopentyl ester | 2.24 g, 73% yield | C1(CCCC1)OC([C@H](CCO[Si](C)(C)C(C)(C)C)NC(=O)OC(C)(C)C)=O | C20H39NO5Si
